US07135475B2
A solution of 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester (160 mg, 1.03 mmol) in N,N-dimethylformamide (1.0 mL) at 25° C. was treated with triethylamine (0.35 mL, 2.6 mmol) and triphenylmethylchloride (316 mg, 1.13 mmol). Additional N,N-dimethylformamide (2.0 mL) was added to the reaction to aid stirring. The reaction was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL) and then was washed with a IN aqueous hydrochloric acid solution (1×10 mL), a saturated aqueous sodium bicarbonate solution (1×10 mL), and a saturated aqueous sodium chloride solution (1×10 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid methyl ester (373 mg, 91.1%) as an off-white solid: 1H NMR (DMSO-d6, 300 MHz) δ7.25 (m, 16H), 3.74 (s, 3H), 3.53 (s, 3H).

reactant | 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 1.03 mmol, 160 mg | COC(=O)C1=NN(C=C1N)C | C6H9N3O2
reactant | triethylamine | 2.6 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethylchloride | 1.13 mmol, 316 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 1-methyl-4-(trityl-amino)-1H-pyrazole-3-carboxylic acid methyl ester | 373 mg, 91.1% | COC(=O)C1=NN(C=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H23N3O2
